US09380782B2
A mixture of 2-methyl-3-nitrophenol 33.5 g, iodoethane 41 g and potassium carbonate 90 g in acetone 400 mL was stirred with heating under reflux for ten hours. The mixtures were cooled to room temperature and filtered and the resulting filtrates were concentrated. The resulting mixtures were extracted with ethyl acetate and the organic layers were washed with water and saturated saline, and were dried over anhydrous magnesium sulfate and were then concentrated under reduced pressure. The resulting residues were subjected to a silica gel column chromatography to give 1-ethoxy-2-methyl-3-nitrobenzene 39.9 g.

reactant | 2-methyl-3-nitrophenol | 33.5 g | CC1=C(C=CC=C1[N+](=O)[O-])O | C7H7NO3
reactant | iodoethane | 41 g | ICC | C2H5I
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 400 mL | CC(=O)C | C3H6O
product | 1-ethoxy-2-methyl-3-nitrobenzene | 39.9 g | C(C)OC1=C(C(=CC=C1)[N+](=O)[O-])C | C9H11NO3
